US07105544B2
N-(3-{4-[3-(BUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-FLUOROPHENYL)CYCLOPENTANECARBOXAMIDE
Example 101 was prepared from 1-(4-fluorophenyl)cyclopentanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}butanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.51 (s, 1H), 7.37–7.24 (m, 6H), 7.02–6.95 (m, 2H), 6.51 (br s, 1H), 3.28 (dd, 2H, J=5.6, 11.6 Hz), 2.93 (d, 2H, J=11.6 Hz), 2.53–2.48 (m, 3H), 2.37–2.30 (m, 4H), 1.98–1.92 (m, 4H), 1.82–1.59 (m, 12H), 1.02 (t, 3H, J=7.6 Hz); ESMS m/e: 494.3 (M+H)+.

reactant | 1-(4-fluorophenyl)cyclopentanecarboxylic acid | FC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13FO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}butanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CCC)=O | C18H29N3O
product | N-(3-{4-[3-(BUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-FLUOROPHENYL)CYCLOPENTANECARBOXAMIDE | C(CCC)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(=O)C1(CCCC1)C1=CC=C(C=C1)F | C30H40FN3O2
